US06992094B1
Ethyl 4-[3-(2-iodoethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate
A mixture of 200 mg (0.4 mmol) of ethyl 4-[3-(2-chloroethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate with 607 mg (4 mmol) of sodium iodide in MEK (4 ml) is refluxed for 12 h. The reaction medium is treated with water and ethyl ether. The organic phase is washed with water, dried over magnesium sulphate and concentrated on a rotary evaporator. The oil obtained is reacted under the same conditions. 159 mg (68%) of a yellow solid are obtained. m.p.=87° C.

reactant | ethyl 4-[3-(2-chloroethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate | 0.4 mmol, 200 mg | ClCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C25H31ClO3Se
reactant | sodium iodide | 4 mmol, 607 mg | [I-].[Na+]
reactant | water | O | H2O
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | MEK | 4 ml | CCC(=O)C | C4H8O
product | Ethyl 4-[3-(2-iodoethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate | 159 mg, 68% | ICCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C25H31IO3Se
